US04786646
As in Example 111, (R)-2,2-diphenylcyclopropanepropanoic acid (6.1 g) and 4-nitrophenol (3,8 g) in dichloromethane (100 mL) was treated with 1,3-dicyclohexylcarbodiimide (4.7 g) and the mixture was stirred at 30° C. for 1 hour. The product obtained from the usual work up was crystallized from 2-propanol to yield 6.4 g of (R)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester, mp 77.5°-76.5° C.; [α]D25 +93.7° (c, 1.0, MeOH).

reactant | (R)-2,2-diphenylcyclopropanepropanoic acid | 6.1 g | C1(=CC=CC=C1)C1([C@@H](C1)CCC(=O)O)C1=CC=CC=C1 | C18H18O2
reactant | 4-nitrophenol | 3,8 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 4.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (R)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester | 6.4 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC[C@H]1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H21NO4
